US07994203B2
To a stirring solution of (±)-2-[3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentan-1-ol (60 mg, 0.157 mmol) in THF (1.565 ml) at RT is added NaH (6.26 mg, 0.157 mmol). After 10 mins MeI (10.77 μl, 0.172 mmol) is added and the reaction mixture is stirred for a further 3 hours. An additional 1.leq of MeI (10.77 μl, 0.172 mmol) is added and reaction continued for 1 hour whereupon it is added to sat. ammonium chloride (50 ml) and the product extracted into EtOAc (60 ml). The organics are washed with brine, dried over MgSO4 and concentrated in vacuo. The crude reaction products are purified by ISCO combiflash chromatography, eluting with 0 to 100% (iso-hexane/EtOAc) on a 12 g SiO2-column to give (±)-3-(2,4-Dichloro-phenyl)-7-(1-methoxymethyl-butoxy)-2,6-dimethyl-pyrazolo[5,1-b]oxazole as a solid; MS: m/z 397.20 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.58 (2H, m), 7.41 (1H, dd), 4.03 (1H, m), 3.58 (2H, m), 3.44 (3H, s), 2.33 (3H, s), 2.30 (3H, s), 1.76 (2H, m), 1.57 (2H, m), 1.00 (3H, t).

reactant | (±)-2-[3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yloxy]-pentan-1-ol | 0.157 mmol, 60 mg | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)OC(CO)CCC | C18H20Cl2N2O3
reactant | NaH | 0.157 mmol, 6.26 mg | [H-].[Na+]
reactant | MeI | 0.172 mmol, 10.77 μl | CI | CH3I
reactant | MeI | 0.172 mmol, 10.77 μl | CI | CH3I
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | THF | 1.565 ml | C1CCOC1 | C4H8O
product | (±)-3-(2,4-Dichloro-phenyl)-7-(1-methoxymethyl-butoxy)-2,6-dimethyl-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)OC(CCC)COC | C19H22Cl2N2O3
